US06846492B2
3,4,5-Trisbenzyloxybenzyl Alcohol
A solution of 20.0 g (0.044 mol) of 3,4,5-trisbenzyloxybenzoic acid methyl ester in 100 ml of THF is added dropwise with vigorous stirring, over a period of 60 minutes at room temperature, to a suspension of 4.00 g (0.11 mol) of lithium alanate in 100 ml of THF, in the course of which the temperature rises to 65° C. (reflux). After a further 2 hours at reflux, excess lithium alanate is cautiously hydrolysed, and the product is isolated in customary manner by extraction with methylene chloride. Amorphous powder, yield 12.0 g (64% of theory).

reactant | 3,4,5-trisbenzyloxybenzoic acid methyl ester | 0.044 mol, 20.0 g | COC(C1=CC(=C(C(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C29H26O5
reactant | lithium | 0.11 mol, 4.00 g | [Li] | Li
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3,4,5-Trisbenzyloxybenzyl Alcohol | C(C1=CC=CC=C1)OC=1C=C(CO)C=C(C1OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C28H26O4
